US06127386
180b. 6-Chloro-3-(1-methyl-2-(R)-pyrrolidinylmethoxy)-5-(5-pyrimidinyl)pyridine hydrochloride
To a solution of 6-chloro-3-(1-methyl-2-(R)-pyrrolidinylmethoxy)-5-(5-pyrimidinyl)pyridine in Et2O was added hydrogen chloride (1.0 M in Et2O) carefully to afford the tittle compound: mp 195-197° C.; 1H NMR (D2O) δ 2.02-2.18 (m, 2H), 2.24 (m, 1H), 2.40 (m, 1H), 3.05 (s, 3H), 3.26 (m, 1H), 3.36 (m, 1H), 3.95 (m, 1H), 4.40 (dd, 1H, J=6.0, 11.0 Hz), 4.57 (dd, 1H, J=3.0, 10.0 Hz), 7.66 (d, 1H, J=3.0 Hz), 8.24 (d, 1H, J=3.0 Hz), 8.99 (s, 2H), 9.21 (s, 1H); MS (CI/NH3) m/z 306 (M+H)+. Anal. Calcd for C15H17ClN4O.1.6 HCl.0.1 H2O: C, 49.37; H, 5.19; N, 15.35. Found: C, 49.55; H, 5.13; N, 15.02. [α]25D +8.1 (c 1.2, MeOH).

reactant | 6-chloro-3-(1-methyl-2-(R)-pyrrolidinylmethoxy)-5-(5-pyrimidinyl)pyridine | ClC1=C(C=C(C=N1)OC[C@@H]1N(CCC1)C)C=1C=NC=NC1 | C15H17ClN4O
reactant | hydrogen chloride | 1.0 M | Cl | ClH
reactant | H2O | O | H2O
reactant | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | 6-Chloro-3-(1-methyl-2-(R)-pyrrolidinylmethoxy)-5-(5-pyrimidinyl)pyridine hydrochloride | Cl.ClC1=C(C=C(C=N1)OC[C@@H]1N(CCC1)C)C=1C=NC=NC1 | InChI=1S/C15H17ClN4O.ClH/c1-20-4-2-3-12(20)9-21-13-5-14(15(16)19-8-13)11-6-17-10-18-7-11;/h5-8,10,12H,2-4,9H2,1H3;1H/t12-;/m1./s1
